US07897774B2
6,7-Dimethoxy-4-methylquinoline (Reference Compound No. 1-1)
The Reference Compound No. 1-1 was prepared following the method described in J. Org. Chem., 62, 568-577 (1997). Namely, iron (III) chloride hexahydrate (5.7 g, 21 mmol) and 3,4-dimethoxyaniline (3.1 g, 20 mmol) were added to acetic acid (60 mL), and then the mixture was stirred at 60° C. After all the solids were dissolved, methylvinylketone (1.8 mL, 22 mmol) was added dropwise for 5 minutes. Then the mixture was stirred at 140° C. for 1 hour, and allowed to cool down to room temperature, and the resulting solid was filtered off. Ethyl acetate (200 mL) was added to the solid, and the resulting organic solution was washed with 0.1N sodium hydroxide aqueous solution (200 mL) and brine (100 mL), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting solid was filtered off with diethyl ether to give 1.6 g of the title reference compound as a light brown solid (Yield: 38%).

reactant | 3,4-dimethoxyaniline | 20 mmol, 3.1 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | methylvinylketone | 22 mmol, 1.8 mL | CC(=O)C=C | C4H6O
catalyst | iron (III) chloride hexahydrate | 21 mmol, 5.7 g | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 6,7-Dimethoxy-4-methylquinoline | Yield: 38% | COC=1C=C2C(=CC=NC2=CC1OC)C | C12H13NO2
